US06388084B1
A solution of N-[(2-ethyl-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester (74 mg, 0.14 mmol), and 1 N sodium hydroxide (2 mL, 2 mmol) in ethanol (3 mL) was heated to 40-45 C for 3 h. Then, the ethanol was removed under vacuum and the residue was diluted with water. The aqueous solution was washed with diethyl ether to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted with ethyl acetate. The combined organic extracts were washed with brine solution and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration afforded 68 mg (95% yield) of N-[(2-ethyl-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine (mp 219-221° C.). ES-HRMS m/e calcd for C27H27F3N2O4 (M+Na) 523.1815, found 523.1816.

reactant | N-[(2-ethyl-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 0.14 mmol, 74 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)CC)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C28H29F3N2O4
reactant | sodium hydroxide | 2 mmol, 1 N, 2 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-[(2-ethyl-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | 68 mg, 95% yield | C(C)C1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)C(=O)O | C27H27F3N2O4
